US08304557B2
A mixture of N-(2-fluoro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (9.80 g, 39.3 mmol), 5-bromo-2-nitropyridine (7.14 g, 35.1 mmol), cesium carbonate (14.8 g, 45.3 mmol) and N,N-dimethylformamide (80 mL) was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=90/10→0/100) to give N-{2-fluoro-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (7.68 g, 59%) as a white solid. To a solution of N-{2-fluoro-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (7.68 g, 20.7 mmol) thus-obtained in methanol (50 mL) was added palladium carbon (50% water-containing product, 700 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 2 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (6.20 g, 88%) as a white solid.

reactant | N-(2-fluoro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 39.3 mmol, 9.80 g | FC1=C(C=C(C=C1)O)NC(=O)C1=CC(=NN1C)C | C12H12FN3O2
reactant | 5-bromo-2-nitropyridine | 35.1 mmol, 7.14 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | cesium carbonate | 45.3 mmol, 14.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{2-fluoro-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 7.68 g, 59% | FC1=C(C=C(C=C1)OC=1C=NC(=CC1)[N+](=O)[O-])NC(=O)C1=CC(=NN1C)C | C17H14FN5O4
